### PR TITLE
feat: BitVec.[toInt|toFin]_concat and Bool.toInt

### PR DESCRIPTION
**Pull request by tobiasgrosser**
This PR adds `BitVec.[toInt|toFin]_concat` and moves a couple of theorems into the concat section, as `BitVec.msb_concat` is needed for the `toInt_concat` proof.

We also add `Bool.toInt`.

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -1922,6 +1922,42 @@ theorem getElem_concat (x : BitVec w) (b : Bool) (i : Nat) (h : i < w + 1) :
...
+
+@[simp] theorem toInt_concat (x : BitVec w) (b : Bool) :
+    (concat x b).toInt = if w = 0 then b.toInt else x.toInt * 2 + b.toNat := by
+  simp only [BitVec.toInt, toNat_concat]
+  cases w
+  · cases b <;> simp [eq_nil x]
+  · cases b <;> simp <;> omega
+
+@[simp] theorem toFin_concat (x : BitVec w) (b : Bool) :
+    (concat x b).toFin = x.toNat * 2 + b.toNat := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1958]: Do I need a different RHS here?

Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:1958]: Yes, if you check the type of this theorem is coercing the right hand side to a Nat, so this is not really telling you what `toFin` does.

Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:1958]: (If we had the `simpNF` linter from Batteries, it would have flagged this automatically.)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -1922,6 +1922,42 @@ theorem getElem_concat (x : BitVec w) (b : Bool) (i : Nat) (h : i < w + 1) :
...
+    Nat.sub_zero, Bool.true_and]
+  by_cases h₀ : 0 < w
+  · simp only [Nat.lt_add_one, getLsbD_eq_getElem, getElem_concat, h₀, ↓reduceIte, decide_true,
+      Bool.true_and, ite_eq_right_iff]
+    intro
+    omega
+  · simp [h₀, show w = 0 by omega]
+
+@[simp] theorem toInt_concat (x : BitVec w) (b : Bool) :
+    (concat x b).toInt = if w = 0 then b.toInt else x.toInt * 2 + b.toNat := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:1951]: Why the `if` statement? Surely just `x.toInt * 2 + b.toNat` is fine still even in the `w=0` case.

File: src/Init/Data/Bool.lean [hunk 3]
```diff
@@ -384,6 +384,15 @@ theorem toNat_lt (b : Bool) : b.toNat < 2 :=
...
 
+/-! ## toInt -/
+
+/-- convert a `Bool` to an `Int`, `false -> 0`, `true -> -1` -/
+def toInt (b : Bool) : Int := cond b (-1) 0
+
+@[simp] theorem toInt_false : false.toInt = 0 := rfl
+
+@[simp] theorem toInt_true : true.toInt = -1 := rfl
+
```
Comment (kim-em) [inline src/Init/Data/Bool.lean:395]: Woah, I don't like this. This is not the behaviour I would guess from a function named `Bool.toInt`.

Comment (kim-em) [reply src/Init/Data/Bool.lean:395]: Regardless of how convenient it might be for BitVec, you're going to have to use `-b.toInt`, with the obvious definition of `toInt`.

Comment (tobiasgrosser) [reply src/Init/Data/Bool.lean:395]: OK, I will change this.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: In case w = 0 and b = true, (concat x b).toInt yields `-1` while `x.toInt * 2 + b.to[Nat|Int]` yields `1`.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Right. I added now a real toFin proof.

**Comment by tobiasgrosser** [comment]
awaiting-review
